US06174905B1
To a suspension of 1.20 g of sodium hydride (60% oil dispersion; 30.0 mmol) in 10 mL of dry DMF at room temperature were added dropwise 2.85 g of 3-hydroxypyridine (30 mmol) in 10 mL of dry DMF, maintaining the temperature below 40° C., and the mixture was stirred at room temperature for 90 min. Under ice-cooling, 6.28 g of tert-butyl 2-bromopropionate (30 mmol) in 10 mL of dry DMF were slowly added dropwise, maintaining the inner temperature within 5 to 10° C., and then the mixture was warmed to room temperature with stirring for 4 hours. After neutralizing with saturated sodium bicarbonate aq., the mixture was extracted with ethyl acetate. The organic layer was washed with water and then saturated brine, dried and evaporated. The residue was purified by column chromatography on silica gel (eluent: n-hexane:ethyl acetate=2:1) to give 4.15 g of tert-butyl 2-(pyridin-3-yl)oxypropionate (Yield: 62%) as a brown oil.

reactant | sodium hydride | 30.0 mmol, 1.20 g | [H-].[Na+]
reactant | 3-hydroxypyridine | 30 mmol, 2.85 g | OC=1C=NC=CC1 | C5H5NO
reactant | tert-butyl 2-bromopropionate | 30 mmol, 6.28 g | BrC(C(=O)OC(C)(C)C)C | C7H13BrO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-(pyridin-3-yl)oxypropionate | 4.15 g, Yield: 62% | N1=CC(=CC=C1)OC(C(=O)OC(C)(C)C)C | C12H17NO3
